US09169215B2
To a clear light brown solution of 2,4,5-trimethoxybenzaldehyde (600 mg, 3.06 mmol) and 5-amino-1H-pyrazole-4-carbonitrile (331 mg, 3.06 mmol) in methanol (10 mL) in a 20 mL vial were added cyclopentyl isonitrile (294 mg, 342 μL, 3.06 mmol) and perchloric acid (61.4 mg, 54.9 μL, 0.612 mmol) at RT under nitrogen atmosphere. Then, the nitrogen line was disconnected and the resulting dark brown solution slowly became a suspension within few hours which was then stirred for 15 h at RT. The off-white solids were collected by filtration and washed with methanol and the solids were not the desired product. The filtrate was removed under vacuum and the resulting residue was purified using an ISCO (120 g) column chromatography eluting with 0-60% ethyl acetate in hexanes. The desired fractions were combined and the solvent was removed under vacuum to isolate 165 mg (14% yield) of 3-(cyclopentylamino)-2-(2,4,5-trimethoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile as a dark brown solid. LC/MS calcd. for C20H23N5O3 (m/e) 381.434, obsd. 382.1 (M+H, ES+).

reactant | 2,4,5-trimethoxybenzaldehyde | 3.06 mmol, 600 mg | COC1=C(C=O)C=C(C(=C1)OC)OC | C10H12O4
reactant | 5-amino-1H-pyrazole-4-carbonitrile | 3.06 mmol, 331 mg | NC1=C(C=NN1)C#N | C4H4N4
reactant | cyclopentyl isonitrile | 3.06 mmol, 342 μL, 294 mg | C1(CCCC1)[N+]#[C-] | C6H9N
reactant | perchloric acid | 0.612 mmol, 54.9 μL, 61.4 mg | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 10 mL | CO | CH4O
product | 3-(cyclopentylamino)-2-(2,4,5-trimethoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 165 mg, 14% yield | C1(CCCC1)NC1=C(NC=2N1N=CC2C#N)C2=C(C=C(C(=C2)OC)OC)OC | C20H23N5O3
